US08604043B2
Step 2: 3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]octanenitrile
A mixture of 4-(1H-pyrazol-4-yl)-7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidine (prepared substantially as described in Example 65 of U.S. Pat. App. Pub. No. 2007/0135461 or International App. No. PCT/US2006/047369 (published as WO 2007/070514); 12 g, 0.038 mol), oct-2-enenitrile (6.0 g, 0.049 mol) and 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU, 4.6 mL, 0.030 mol) in acetonitrile (120 mL, 2.3 mol) was stirred at room temperature overnight. After being concentrated in vacuo, the resultant residue was purified on silica gel (eluting with 0 to 40% EtOAc in hexanes) to give the desired product (15 g, 89.89%). The enantiomers (first peak retention time 11.02 min, second peak retention time 14.10 min) were separated on a ChiralCel OD-H column (30×250 mm, 5 μM), eluting with mobile phase of 15% ethanol and 85% hexane at 25 mL/min. MS calculated for C23H35N6OSi(M+H)+: m/z=439.264. Found: 439.4. 1H NMR (300 MHz, CDCl3) δ 8.91 (1H, s), 8.38 (1H, s), 8.37 (1H, s), 7.46 (1H, d, J=3.8 Hz), 6.86 (1H, d, J=3.8 Hz), 5.73 (2H, s), 4.59 (1H, m), 3.60 (2H, t, J=8.3 Hz), 3.06 (2H, td, J=16.8 and 7.5 Hz), 2.21 (1H, m), 2.01 (1H, m), 1.40-1.21 (6H, m), Hz), 0.91 (3H, t, J=6.3 Hz), 0.00 (9H, s) ppm.

reactant | 4-(1H-pyrazol-4-yl)-7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidine | N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C15H21N5OSi
reactant | oct-2-enenitrile | 0.049 mol, 6.0 g | C(C=CCCCCC)#N | C8H13N
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.030 mol, 4.6 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | acetonitrile | 2.3 mol, 120 mL | C(C)#N | C2H3N
product | 3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]octanenitrile | 15 g, 89.89% | C[Si](CCOCN1C=CC2=C1N=CN=C2C=2C=NN(C2)C(CC#N)CCCCC)(C)C | C23H34N6OSi
